US07825256B2
Sodium (550 mg, 25.0 mmol) was added portionwise to a stirred solution of anhydrous ethanol (30 mL) under nitrogen at room temperature. When all the sodium had dissolved, to the solution was added a solution of guanidine hydrochloride (2.28 g, 25.0 mmol) in ethanol (20 mL). The resulting mixture was stirred for 20 minutes. The precipitated sodium chloride was removed by filtration and to the clear filtrate was added 2-(3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester (6.87 g, 23.7 mmol). The flask was then fitted with a Dean-Stark Tube and 20 mL of distillate was removed as the solution was heated to reflux under nitrogen for 12 h. The mixture was allowed to cool to room temperature, then was gradually cooled to −5° C. The resulting solid was collected by filtration and air dried to give 3.37 g (46%) of 2-(2-amino-6-methyl-pyrimidin-4-yl)-pyrrolidine-1-carboxylic acid benzyl ester as cream colored crystals. [M+H]+ 312.88.

reactant | Sodium | 25.0 mmol, 550 mg | [Na] | Na
reactant | guanidine hydrochloride | 25.0 mmol, 2.28 g | Cl.NC(=N)N
reactant | 2-(3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester | 23.7 mmol, 6.87 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(CC(C)=O)=O | C16H19NO4
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(2-amino-6-methyl-pyrimidin-4-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 3.37 g, 46% | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C1=NC(=NC(=C1)C)N | C17H20N4O2
